US04065573
A Grignard reagent is prepared using 4.79 gm. (0.024 mole) m-trifluoromethylbromobenzene, 0.59 gm. magnesium and 50 ml. tetrahydrofuran; to this is added 1.50 gm. (0.0071 mole) 4-cyano-4-dimethylaminocyclohexanone ethylene ketal (prepared in Example 41, Part B, dissolved in 40 ml. tetrahydrofuran. This reaction mixture is heated at the reflux temperature for 17 hours. It is then cooled, chilled in ice, and 20 ml. saturated aqueous ammonium chloride and benzene are added. The organic solution is then separated, initially washed with water, and then washed with brine. The solvents are then removed by evaporation under reduced pressure. The residue thus obtained is dissolved in diethyl ether, and 4 N ethereal hydrogen chloride is added until precipitation of the hydrochloride salt as a gum is complete. The supernatant liquid is decanted and the remaining gum is dissolved in methylene chloride. One N aqueous sodium hydroxide is added. The organic layer is then separated and the methylene chloride is removed by evaporation under reduced pressure. The residue thus obtained is transferred onto a 200 ml. column of silica gel and the chromatogram is developed with methylene chloride containing 3% methanol. The appropriate fractions, as determined by TLC, are collected and combined. The solvent is removed by evaporation under reduced pressure, and the gummy residue thus obtained is dissolved in diethyl ether. The ether solution is treated with 4 N ethereal hydrogen chloride until precipitation of the hydrochloride salt is complete. The precipitate is collected on a filter and then recrystallized from a mixture of methylene chloride and ethyl acetate to give 0.63 gm. (24% yield) of 4-(m-trifluoromethylphenyl)-4-dimethylaminocyclohexanone ethylene ketal hydrochloride having a melting point at 231° to 232° C.

reactant | m-trifluoromethylbromobenzene | 0.024 mole | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | magnesium | [Mg] | Mg
reactant | 4-cyano-4-dimethylaminocyclohexanone ethylene ketal | 0.0071 mole | C1COC2(CCC(CC2)(N(C)C)C#N)O1 | C11H18N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(m-trifluoromethylphenyl)-4-dimethylaminocyclohexanone ethylene ketal hydrochloride | 24% yield | Cl.C1COC2(CCC(CC2)(N(C)C)C2=CC(=CC=C2)C(F)(F)F)O1 | InChI=1S/C17H22F3NO2.ClH/c1-21(2)15(6-8-16(9-7-15)22-10-11-23-16)13-4-3-5-14(12-13)17(18,19)20;/h3-5,12H,6-11H2,1-2H3;1H
